US05270313
Condensation of diethyl o-chlorobenzylmalonate with formamidine yielded 5-(o-chlorobenzyl)-6-hydroxy-4(3H)-pyrimidinone which, by reaction with phosphorus oxychloride, yielded 4,6-chloro-5-(o-chlorobenzyl)pyrimidine, melting point 110°-112° C.

reactant | diethyl o-chlorobenzylmalonate | ClC1=C(CC(C(=O)OCC)C(=O)OCC)C=CC=C1 | C14H17ClO4
reactant | formamidine | C(=N)N | CH4N2
product | 5-(o-chlorobenzyl)-6-hydroxy-4(3H)-pyrimidinone | ClC1=C(CC=2C(NC=NC2O)=O)C=CC=C1 | C11H9ClN2O2
